.subckt fsdphcbq_x1 Q CK D SI SE EN RS VDD VSS
XFSDPHCBQ_sei_P0 FSDPHCBQ_se_b SE VDD VDD pmos w=2u l=100n
XFSDPHCBQ_sei_N0 FSDPHCBQ_se_b SE VSS VSS nmos w=1u l=100n
XFSDPHCBQ_smx_MP0 FSDPHCBQ_din SE D VDD pmos w=2u l=100n
XFSDPHCBQ_smx_MN0 FSDPHCBQ_din FSDPHCBQ_se_b D VSS nmos w=1u l=100n
XFSDPHCBQ_smx_MP1 FSDPHCBQ_din FSDPHCBQ_se_b SI VDD pmos w=2u l=100n
XFSDPHCBQ_smx_MN1 FSDPHCBQ_din SE SI VSS nmos w=1u l=100n
XFSDPHCBQ_PA0 fsdphcbq_and_n FSDPHCBQ_din VDD VDD pmos w=2u l=100n
XFSDPHCBQ_PB0 fsdphcbq_and_n RS VDD VDD pmos w=2u l=100n
XFSDPHCBQ_NB0 fsdphcbq_and_n RS nmid_FSDPHCBQ_0 VSS nmos w=1u l=100n
XFSDPHCBQ_NA0 nmid_FSDPHCBQ_0 FSDPHCBQ_din VSS VSS nmos w=1u l=100n
XFSDPHCBQ_I_P0 fsdphcbq_and fsdphcbq_and_n VDD VDD pmos w=2u l=100n
XFSDPHCBQ_I_N0 fsdphcbq_and fsdphcbq_and_n VSS VSS nmos w=1u l=100n
XFSDPHCBQ_eni_P0 FSDPHCBQ_en_b EN VDD VDD pmos w=2u l=100n
XFSDPHCBQ_eni_N0 FSDPHCBQ_en_b EN VSS VSS nmos w=1u l=100n
XFSDPHCBQ_emx_MP0 FSDPHCBQ_ed EN Q VDD pmos w=2u l=100n
XFSDPHCBQ_emx_MN0 FSDPHCBQ_ed FSDPHCBQ_en_b Q VSS nmos w=1u l=100n
XFSDPHCBQ_emx_MP1 FSDPHCBQ_ed FSDPHCBQ_en_b fsdphcbq_and VDD pmos w=2u l=100n
XFSDPHCBQ_emx_MN1 FSDPHCBQ_ed EN fsdphcbq_and VSS nmos w=1u l=100n
XFSDPHCBQ_ck_P0 FSDPHCBQ_ck_b CK VDD VDD pmos w=2u l=100n
XFSDPHCBQ_ck_N0 FSDPHCBQ_ck_b CK VSS VSS nmos w=1u l=100n
XFSDPHCBQ_m_in_P FSDPHCBQ_m_n1 CK FSDPHCBQ_ed VDD pmos w=2u l=100n
XFSDPHCBQ_m_in_N FSDPHCBQ_m_n1 FSDPHCBQ_ck_b FSDPHCBQ_ed VSS nmos w=1u l=100n
XFSDPHCBQ_m_i1_P0 FSDPHCBQ_m_n2 FSDPHCBQ_m_n1 VDD VDD pmos w=2u l=100n
XFSDPHCBQ_m_i1_N0 FSDPHCBQ_m_n2 FSDPHCBQ_m_n1 VSS VSS nmos w=1u l=100n
XFSDPHCBQ_m_i2_P0 FSDPHCBQ_m_n1 FSDPHCBQ_m_n2 VDD VDD pmos w=2u l=100n
XFSDPHCBQ_m_i2_N0 FSDPHCBQ_m_n1 FSDPHCBQ_m_n2 VSS VSS nmos w=1u l=100n
XFSDPHCBQ_m_fb_P FSDPHCBQ_m_n1 FSDPHCBQ_ck_b FSDPHCBQ_m_n2 VDD pmos w=2u l=100n
XFSDPHCBQ_m_fb_N FSDPHCBQ_m_n1 CK FSDPHCBQ_m_n2 VSS nmos w=1u l=100n
XFSDPHCBQ_m_o_P0 FSDPHCBQ_qm FSDPHCBQ_m_n2 VDD VDD pmos w=2u l=100n
XFSDPHCBQ_m_o_N0 FSDPHCBQ_qm FSDPHCBQ_m_n2 VSS VSS nmos w=1u l=100n
XFSDPHCBQ_s_in_P FSDPHCBQ_s_n1 FSDPHCBQ_ck_b FSDPHCBQ_qm VDD pmos w=2u l=100n
XFSDPHCBQ_s_in_N FSDPHCBQ_s_n1 CK FSDPHCBQ_qm VSS nmos w=1u l=100n
XFSDPHCBQ_s_i1_P0 FSDPHCBQ_s_n2 FSDPHCBQ_s_n1 VDD VDD pmos w=2u l=100n
XFSDPHCBQ_s_i1_N0 FSDPHCBQ_s_n2 FSDPHCBQ_s_n1 VSS VSS nmos w=1u l=100n
XFSDPHCBQ_s_i2_P0 FSDPHCBQ_s_n1 FSDPHCBQ_s_n2 VDD VDD pmos w=2u l=100n
XFSDPHCBQ_s_i2_N0 FSDPHCBQ_s_n1 FSDPHCBQ_s_n2 VSS VSS nmos w=1u l=100n
XFSDPHCBQ_s_fb_P FSDPHCBQ_s_n1 CK FSDPHCBQ_s_n2 VDD pmos w=2u l=100n
XFSDPHCBQ_s_fb_N FSDPHCBQ_s_n1 FSDPHCBQ_ck_b FSDPHCBQ_s_n2 VSS nmos w=1u l=100n
XFSDPHCBQ_s_o_P0 Q FSDPHCBQ_s_n2 VDD VDD pmos w=2u l=100n
XFSDPHCBQ_s_o_N0 Q FSDPHCBQ_s_n2 VSS VSS nmos w=1u l=100n
.ends fsdphcbq_x1
